US08975398B2
N-(4-(piperidin-4-yloxy)phenyl)-1-(pyridin-3-yl)azetidine-3-carboxamide
tert-Butyl 4-(4-(1-(pyridin-3-yl)azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate (3.82 g, 8.44 mmol) was dissolved in 60 ml dichloromethane, cooled to 0° C. and treated with trifluoroacetic acid (10 ml). The mixture was allowed to warm to room temperature and was stirred for 2 hours. Removal of the solvent under vacuum provided the title compound.

reactant | tert-Butyl 4-(4-(1-(pyridin-3-yl)azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate | 8.44 mmol, 3.82 g | N1=CC(=CC=C1)N1CC(C1)C(=O)NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C25H32N4O4
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | N-(4-(piperidin-4-yloxy)phenyl)-1-(pyridin-3-yl)azetidine-3-carboxamide | N1CCC(CC1)OC1=CC=C(C=C1)NC(=O)C1CN(C1)C=1C=NC=CC1 | C20H24N4O2
